US08859541B2
E5a) N-[6-amino-2-(2-phenylethynyl)pyridin-3-yl]-N-methylbenzenesulfonamide
At RT NaH (60% dispersion in mineral oil, 4.6 mg, 0.12 mmol) is added to N-[6-amino-2-(2-phenylethynyl)pyridin-3-yl]benzenesulfonamide D5a (27 mg, approx. 0.07 mmol) in THF (0.6 ml). After stirring for 10 minutes dimethylsulfate (8 μl, 0.08 mmol) is added to the mixture and stirring continued for 1 h. The mixture is concentrated in vacuo and the product purified by RP HPLC. Yield: 16 mg (57%). HPLC-MS: M+H=364; tR=1.85 min (*Method—2).

reactant | NaH | 0.12 mmol, 4.6 mg | [H-].[Na+]
reactant | N-[6-amino-2-(2-phenylethynyl)pyridin-3-yl]benzenesulfonamide | NC1=CC=C(C(=N1)C#CC1=CC=CC=C1)NS(=O)(=O)C1=CC=CC=C1 | C19H15N3O2S
reactant | dimethylsulfate | 0.08 mmol, 8 μl | COS(=O)(=O)OC | C2H6O4S
solvent | THF | 0.6 ml | C1CCOC1 | C4H8O
product | N-[6-amino-2-(2-phenylethynyl)pyridin-3-yl]-N-methylbenzenesulfonamide | NC1=CC=C(C(=N1)C#CC1=CC=CC=C1)N(S(=O)(=O)C1=CC=CC=C1)C | C20H17N3O2S
